US04889869
(a) 2-benzyl-3-methylsulphonyl-propionic acid
1.74 g of 2-benzyl-3-methylsulphonyl-propionic acid ethyl ester in 35 ml of 4N hydrochloric acid are heated under reflux for 2 hours. The cooled solution is extracted with ethyl acetate, the extracts are dried and concentrated and the residue is purified by medium-pressure chromatography (1 Lobar® column size B, eluant A). 1H-NMR (DMSO-d6): 2.95 ppm(s, 3H); 2.8-3.8 (m, 5H); 7.2 (s, 5H).

reactant | 2-benzyl-3-methylsulphonyl-propionic acid ethyl ester | 1.74 g | C(C)OC(C(CS(=O)(=O)C)CC1=CC=CC=C1)=O | C13H18O4S
solvent | hydrochloric acid | 4N, 35 ml | Cl | ClH
product | 2-benzyl-3-methylsulphonyl-propionic acid | C(C1=CC=CC=C1)C(C(=O)O)CS(=O)(=O)C | C11H14O4S
